US05686615
(2S,3S)-3-Amino-2-phenylpiperidine
In a bottle were placed 31 g of 10% palladium-carbon, 50 mL of water, 300 mL of methanol, 450 mL of ethanol, 20 mL of concentrated aqueous hydrochloric acid and 15 g (0.04 mole) of the hydrochloride salt of (2S,3S)-3-(2-methoxybenzyl)amino-2-phenylpiperdine. The mixture was shaken under hydrogen (40 p.s.i.) for 1 day and filtered through a pad of diatomaceous earth. The pad was rinsed with 2N aqueous hydrochloric acid (HCl), water, ethanol and water and concentrated with a rotary evaporator. Water was added to the residue and the mixture was made basic using 4N aqueous sodium hydroxide (NaOH). The mixture was extracted with four portions of dichloromethane, and the extracts were dried over magnesium sulfate (MgSO4) and concentrated to obtain 2.23 g of the title compound. The aqueous fraction was concentrated to dryness and triturated with chloroform. Concentration of the chloroform solution afforded an additional 4.15 g of title compound. The product obtained in this manner had spectral properties identical to those of the product of Example 1.

reactant | water | 50 mL | O | H2O
reactant | methanol | 300 mL | CO | CH4O
reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | (2S,3S)-3-(2-methoxybenzyl)amino-2-phenylpiperdine | COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=CC=C1 | C19H24N2O
catalyst | palladium-carbon | 31 g | [C].[Pd]
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | (2S,3S)-3-Amino-2-phenylpiperidine | 2.23 g | N[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1 | C11H16N2
